US05416089
Part A: Methyl α-[ (2-Bromophenyl)methylene]-(2-carboxy-4-nitrophenyl)acetate
Dimethyl 4-nitrohomophthalate (Ghosh, C. K.; Mukherjee, K. K. J. Ind. Chem. Soc. 1976, 53, 662) (5 g, 0.02 tool) in THF (20 mL) was added to a suspension of sodium hydride (0.85 g of 60% disp., 0.021 mol) in THF (30 mL) with stirring at 0° C. under nitrogen. The resulting solution was stirred for 5-10 min and 2-bromobenzaldehyde (2.3 mL, 0.02 mol) was added in one portion. The cooling bath was removed after 10 min and the reaction was stirred at room temperature until the mixture solidified. The solid was dissolved in water and extracted with dichloromethane (2×). The aqueous phase was acidified and reextracted 3× with fresh portions of dichloromethane. The latter extracts were combined, washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue crystallized on standing to give 5.62 g (70%) of off-white product: 1H NMR (300 MHz, CDCl3) δ 3.90 (3H, s), 6.66 (1H, d), 7.09 (1H, t), 7.16-7.23 (3H, m), 7.69 (1H, d), 7.86 (1H, s), 8.24 (1H, dd), 8.68 (1H, d); MS m/e 423-425 (M+NH4+).

reactant | Dimethyl 4-nitrohomophthalate | 5 g | [N+](=O)([O-])C=1C=C(C(CC(=O)OC)=CC1)C(=O)OC | C11H11NO6
reactant | sodium hydride | 0.021 mol, 0.85 g | [H-].[Na+]
reactant | 2-bromobenzaldehyde | 0.02 mol, 2.3 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Methyl α-[ (2-Bromophenyl)methylene]-(2-carboxy-4-nitrophenyl)acetate | 5.62 g, 70% | BrC1=C(C=CC=C1)C=C(C(=O)OC)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)O | C17H12BrNO6
